US05869485
1.1 g of 5-(3-benzyloxy-4-methoxyphenyl)-7-[3-(2-chloro-1-ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine and 0.3 g of sodium imidazole are heated to 85° C. in 30 ml of DMF and the mixture is stirred for 8 h. It is then cooled to RT and concentrated. After chromatography on silica gel, 5-(3-benzyloxy-4-methoxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine having an m.p. of 150° C. is obtained.

reactant | 5-(3-benzyloxy-4-methoxyphenyl)-7-[3-(2-chloro-1-ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine | 1.1 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCCl | C28H25ClN4O3
reactant | sodium imidazole | 0.3 g | N1C=NC=C1.[Na]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-(3-benzyloxy-4-methoxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCN2C=NC=C2 | C31H28N6O3
